US03974176
30 g of 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetonitrile and a mixture of 46 ml of concentrated sulfuric acid and 55 ml water are heated for 2.5 hours while stirring at 100°C. Then the solution is diluted with 700 ml of water, the precipitate is drawn off and washed with water. The filter cake is dissolved in diluted sodium hydroxide and purified with active charcoal and the acid is precipitated with diluted hydrochloric acid. 5-Chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetic acid is obtained with a yield of 95 %; F 179.5°-181° (from methanol).

reactant | 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetonitrile | 30 g | ClC1=C(C(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)Cl)CC#N | C17H11Cl2N3
reactant | sulfuric acid | 46 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 700 ml | O | H2O
reactant | water | 55 ml | O | H2O
product | 5-Chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetic acid | yield of 95 % | ClC1=C(C(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)Cl)CC(=O)O | C17H12Cl2N2O2
